data/rdb19/train.csv
rxn,smiles,ea
1143,[C:1]([C:2]([C:3]([H:4])[C:5](=[O:6])[O:7][H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[N:14]([C:15](=[O:16])[C:17](=[C:18]([H:22])[H:23])[H:21])([H:19])[H:20]>>[C:1]([C:2](=[C:3]([H:4])[C:5](=[O:6])[O:7][H:13])[H:11])([H:8])([H:9])[H:10].[H:12][C:17]([C:15]([N:14]([H:19])[H:20])=[O:16])([C:18]([H:22])[H:23])[H:21],32.141799249337055
1604,[C:15]([C:16]([C:17](=[C:18]([H:25])[H:26])[H:24])([H:22])[H:23])([H:19])([H:20])[H:21].[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[N:8]([H:13])[H:14])[H:12])([H:9])([H:10])[H:11]>>[C:15]([C:16]([C:17](=[C:18]([H:25])[H:26])[H:24])([H:22])[H:23])([H:19])[H:21].[C:1]([C:2]([C:3]([H:4])([H:5])[H:20])([C:6](=[O:7])[N:8]([H:13])[H:14])[H:12])([H:9])([H:10])[H:11],22.04524877096992
1819,[C:15]([C:16]([C:17]([C:18]([H:31])([H:32])[H:33])([c:19]1[c:20]([H:34])[c:21]([H:35])[c:22]([H:36])[c:23]([H:37])[c:24]1[H:38])[H:30])([H:28])[H:29])([H:25])([H:26])[H:27].[C:1]([C:2]([C:3]([H:4])[C:5](=[O:6])[N:7]([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:15]([C:16]([C:17]([C:18]([H:31])([H:32])[H:33])[c:19]1[c:20]([H:34])[c:21]([H:35])[c:22]([H:36])[c:23]([H:37])[c:24]1[H:38])([H:28])[H:29])([H:25])([H:26])[H:27].[C:1]([C:2](=[C:3]([H:4])[C:5](=[O:6])[N:7]([H:13])[H:14])[H:11])([H:8])([H:9])[H:10].[H:12][H:30],55.20448008546373
1683,[C:15](=[C:16]([c:17]1[c:18]([H:26])[c:19]([H:27])[c:20]([H:28])[c:21]([H:29])[c:22]1[H:30])[H:25])([H:23])[H:24].[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[N:8]([H:13])[H:14])[H:12])([H:9])([H:10])[H:11]>>[C:15](=[C:16]([c:17]1[c:18]([H:26])[c:19]([H:27])[c:20][c:21]([H:29])[c:22]1[H:30])[H:25])([H:23])[H:24].[C:1]([C:2]([C:3]([H:4])([H:5])[H:28])([C:6](=[O:7])[N:8]([H:13])[H:14])[H:12])([H:9])([H:10])[H:11],25.633183059922885
2777,[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:7])[C:8]([C:9]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[C:20](=[C:21]([c:22]1[c:23]([H:31])[c:24]([H:32])[c:25]([H:33])[c:26]([H:34])[c:27]1[H:35])[H:30])([H:28])[H:29]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:7])=[C:8]([C:9]([H:17])([H:18])[H:19])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[H:15][C:20]([C:21]([c:22]1[c:23]([H:31])[c:24]([H:32])[c:25]([H:33])[c:26]([H:34])[c:27]1[H:35])[H:30])([H:28])[H:29],29.98808009008644
1876,[C:15](=[C:16]([N:17]([C:18](=[O:19])[H:24])[H:23])[H:22])([H:20])[H:21].[C:1]([C:2]([C:3]([H:4])[C:5](=[O:6])[N:7]([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:15](=[C:16][N:17]([C:18](=[O:19])[H:24])[H:23])([H:20])[H:21].[C:1]([C:2]([C:3]([H:4])([C:5](=[O:6])[N:7]([H:13])[H:14])[H:22])([H:11])[H:12])([H:8])([H:9])[H:10],28.427198441058863
5202,[C:1]([C:2]([C:3]([C:4]([H:17])([H:18])[H:19])([c:5]1[c:6]([H:20])[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]1[H:24])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[C:25]([C:26]([C:27]([H:28])[N:29]([C:30](=[O:31])[H:38])[H:37])([H:35])[H:36])([H:32])([H:33])[H:34]>>[C:1]([C:2]([C:3]([C:4]([H:17])([H:18])[H:19])([C:5]1=[C:6]([H:20])[C:7]([H:21])=[C:8]([H:22])[C:9]([H:23])([C:27]([C:26]([C:25]([H:32])([H:33])[H:34])([H:35])[H:36])([H:28])[N:29]([C:30](=[O:31])[H:38])[H:37])[C:10]1[H:24])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13],21.305729849846102
1890,[C:11]([C:12]([C:13]([H:19])([H:20])[H:21])[C:14]#[N:15])([H:16])([H:17])[H:18].[N:1]([C:2](=[O:3])[C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[H:7]>>[N:1]([C:2](=[O:3])[C:4]([C:5]([H:9])[H:10])([H:8])[C:12]([C:11]([H:16])([H:17])[H:18])([C:13]([H:19])([H:20])[H:21])[C:14]#[N:15])([H:6])[H:7],18.112382874649484
2076,[C:11]([H:12])([H:13])[H:14].[N:1]([C:2](=[O:3])[C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[H:7]>>[N+:1]([C:2]([O-:3])[C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])([H:7])[C:11]([H:12])([H:13])[H:14],36.02014509710716
2310,[C:1]([C:2]([H:3])[H:4])([H:5])([H:6])[H:7].[C:8]([O:9][C:10](=[O:11])[C:12](=[C:13]([H:18])[H:19])[C:14]([H:20])([H:21])[H:22])([H:15])([H:16])[H:17]>>[C:1](=[C:2]([H:3])[H:4])([H:6])[H:7].[C:8]([O:9][C:10](=[O:11])[C:12]=[C:13]([H:18])[H:19])([H:15])([H:16])[H:17].[H:5][C:14]([H:20])([H:21])[H:22],86.45448990439763
1570,[C:15]([C:16]([O:17][C:18](=[O:19])[C:20](=[C:21]([H:28])[H:29])[H:27])([H:25])[H:26])([H:22])([H:23])[H:24].[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[N:8]([H:13])[H:14])[H:12])([H:9])([H:10])[H:11]>>[C:15]([C:16]([O:17][C:18](=[O:19])[C:20](=[C:21]([H:28])[H:29])[H:27])[H:26])([H:22])([H:23])[H:24].[C:1]([C:2]([C:3]([H:4])([H:5])[H:25])([C:6](=[O:7])[N:8]([H:13])[H:14])[H:12])([H:9])([H:10])[H:11],17.891671308199875
3084,[C:1]([C:2]([O:3][C:4]([O:5])([C:6](=[C:7]([H:14])[H:15])[H:13])[C:18]([C:17]([C:16]([H:25])([H:26])[H:27])([O:21][C:22](=[O:23])[C:24]([H:29])([H:30])[H:31])[H:28])([H:19])[H:20])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:16]([C:17]([O:21][C:22](=[O:23])[C:24]([H:29])([H:30])[H:31])[H:28])([H:25])([H:26])[H:27].[C:1]([C:2]([O:3][C:4]1([C:6](=[C:7]([H:14])[H:15])[H:13])[O:5][C:18]1([H:19])[H:20])([H:11])[H:12])([H:8])([H:9])[H:10],52.81123495218344
